US07419997B2
A solution of cyclohexane-1,2-dione (4-chlorophenyl)hydrazone (2.3 g, 9.7 mmol) in hydrochloric acid (2 mL) and acetic acid (8 mL) was heated at 120° C. for 20 minutes. The mixture was cooled slightly and treated with ice water. The resulting precipitate was collected by filtration to give 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one (1.9 g, 88% yield) as brown solid. 1H-NMR (DMSO-d6): δ 11.78 (s, 1H), 7.75 (m, 1H), 7.38 (d, 1H), 7.28 (dd, 1H), 2.92 (t, 2H), 2.55 (t, 2H), 2.13 (q, 2H); MS m/z 220 (M+1).

reactant | cyclohexane-1,2-dione (4-chlorophenyl)hydrazone | 9.7 mmol, 2.3 g | ClC1=CC=C(C=C1)NN=C1C(CCCC1)=O | C12H13ClN2O
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | 1.9 g, 88% yield | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
